US06489080B2
Synthesis of A-22 (Benzoyloxyethyl Vinyl Ether)
Benzoic acid (244 g) (2 mol) was dissolved in 3,000 ml of toluene, and thereto were added 320 g of 2-chloroethyl vinyl ether, 88 g of sodium hydroxide, 25 g of tetrabutylammonium bromide, and 100 g of triethylamine. The resulting mixture was stirred with heating at 120° C. for 5 hours.

reactant | Benzoic acid | 2 mol, 244 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 2-chloroethyl vinyl ether | 320 g | C(=C)OCCCl | C4H7ClO
reactant | sodium hydroxide | 88 g | [OH-].[Na+]
reactant | triethylamine | 100 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 3,000 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium bromide | 25 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | Benzoyloxyethyl Vinyl Ether | C(=C)OCCOC(C1=CC=CC=C1)=O | C11H12O3
